US06573293B2
To a stirred yellow muddy mixture of 5-[2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (112.8 mg, 0.4 mmol), DMF (0.5 mL) and triethylamine (0.111 mL) in a 20 mL reaction tube, was added BOP reagent (265 mg). The mixture became clear in 5 min. 2-(2,6-dimethylpiperazin-1-yl)ethylamine (68.6 mg) (see., Tapia, L. Alonso—Cires, P. Lopez-Tudanca, R. Mosquera, L. Labeaga, A. Innerarity, A. Orjales, J. Med. Chem., 1999, 42, 2870-2880) was added into the clear mixture. The resulting solution was stirred at room temperature over night. Thin layer chromatography (10% methanol in methylene chloride) showed that all the starting material had been converted into the product. The reaction mixture was evaporated to dryness and then purified by flash chromatography (CH2Cl2/CH3OH=20/1-15/1) followed by recrystalization to give 5-[2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid [2-(3,5-dimethylpiperazin-1-yl)ethyl)amide (83 mg, 50% yield).

reactant | 5-[2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.4 mmol, 112.8 mg | O=C\1NC2=CC=CC=C2/C1=C/C1=C(C(=C(N1)C)C(=O)O)C | C16H14N2O3
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
reactant | BOP reagent | 265 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-(2,6-dimethylpiperazin-1-yl)ethylamine | 68.6 mg | CC1N(C(CNC1)C)CCN | C8H19N3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | triethylamine | 0.111 mL | C(C)N(CC)CC | C6H15N
product | 5-[2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid [2-(3,5-dimethylpiperazin-1-yl)ethyl)amide | 83 mg, 50% yield | CC1CN(CC(N1)C)CCNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=CC=C12)=O)C | C24H31N5O2
